* MCP73831 autonomous charger functional test
.include ../models/MCP73831.lib
* USB hot-plug at 10 ms.
VUSB vdd 0 PULSE(0 5 10m 20u 20u 80m 120m)
* Simple battery source + internal impedance.
VBAT0 b0 0 3.75
RBAT b0 batt 0.12
CBAT batt 0 2000u
* Final hardware topology: PROG is permanently returned to GND through 3.3k.
RPROG prog 0 3.3k
XCHG stat 0 batt vdd prog MCP73831
RSTATLOAD stat 0 220k
.control
set wr_singlescale
tran 20u 100m
wrdata results/mcp73831_charge.csv time v(vdd) v(batt) v(stat) i(vbat0) i(vusb)
.endc
.end
